US07585880B2
(4-{[[2-(4-fluorophenyl)ethyl](4-isopropyl-1,3-thiazol-2-yl)amino]methyl}phenyl)methanol
A mixture of N-[2-(4-fluorophenyl)ethyl]-4-isopropyl-1,3-thiazole-2-amine (550 mg), sodium hydride (80 mg) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 1 hr. Methyl 4-(bromomethyl)benzoate (500 mg) was added to the reaction mixture under ice-cooling, and the mixture was allowed to warm to room temperature and further stirred for 1 hr. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9-1:1 in volume ratio) to give a yellow oil. The yellow oil was dissolved in tetrahydrofuran (30 mL) and lithium aluminum hydride (80 mg) was added by small portions under ice-cooling. The reaction mixture was stirred under ice-cooling for 30 min and sodium sulfate 10 hydrate (1.0 g) was added. The mixture was allowed to warm to room temperature and stirred for 30 min. The resulting precipitate was filtered off and the filtrate was concentrated to give the title compound (720 mg, yield 90%) as a yellow oil.

reactant | N-[2-(4-fluorophenyl)ethyl]-4-isopropyl-1,3-thiazole-2-amine | 550 mg | FC1=CC=C(C=C1)CCNC=1SC=C(N1)C(C)C | C14H17FN2S
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | Methyl 4-(bromomethyl)benzoate | 500 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | lithium aluminum hydride | 80 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate 10 hydrate | 1.0 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4-{[[2-(4-fluorophenyl)ethyl](4-isopropyl-1,3-thiazol-2-yl)amino]methyl}phenyl)methanol | 720 mg, yield 90% | FC1=CC=C(C=C1)CCN(C=1SC=C(N1)C(C)C)CC1=CC=C(C=C1)CO | C22H25FN2OS
